US05494928
2.2 g of 3-acetoxy-1-acetyl-5-fluoroindole were added to 20 ml of 90% sulfuric acid and, after stirring for three quarters of an hour, the reaction mixture was diluted with 100 ml of ice-water. The precipitate was filtered off, washed with water and dried. There were obtained 1.6 g (83%) of 1-acetyl-5-fluoroindolin-3-one as beige crystals with a m.p. of 143°-144°.

reactant | 3-acetoxy-1-acetyl-5-fluoroindole | 2.2 g | C(C)(=O)OC1=CN(C2=CC=C(C=C12)F)C(C)=O | C12H10FNO3
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 1-acetyl-5-fluoroindolin-3-one | 1.6 g, 83% | C(C)(=O)N1CC(C2=CC(=CC=C12)F)=O | C10H8FNO2
